US08420816B2
STEP B: (R)-4-((1-(cyclopentylamino)-3-hydroxy-3-methyl-1-oxobutan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid
To (R)-1-tert-butyl 3-methyl 4-((1-(cyclopentylamino)-3-hydroxy-3-methyl-1-oxobutan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate was added MeOH (1 mL) and aqueous NaOH (12N, 2mL). The reaction mixture was stirred at 53° C. for 16 h and the resulting product was purified via preparative mass trigger LC-MS (AcCN/H2O, 5-90%). The fractions were collected, concentrated, and dried in vacuo to afford the title compound. [M+H] calc'd for C19H26N4O4, 375; found, 374.5.

reactant | (R)-1-tert-butyl 3-methyl 4-((1-(cyclopentylamino)-3-hydroxy-3-methyl-1-oxobutan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate | C1(CCCC1)NC([C@@H](C(C)(C)O)NCC1=C2C(=NC=C1)N(C=C2C(=O)OC)C(=O)OC(C)(C)C)=O | C25H36N4O6
reactant | NaOH | 12N, 2mL | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | (R)-4-((1-(cyclopentylamino)-3-hydroxy-3-methyl-1-oxobutan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | C1(CCCC1)NC([C@@H](C(C)(C)O)NCC1=C2C(=NC=C1)NC=C2C(=O)O)=O | C19H26N4O4
